US06723735B1
A solution of 4-(3-nitrobenzyl)morpholine (3.0 g, 14 mmol) in ethanol (40 ml) was treated with 10% palladium on charcoal (150 mg) and hydrogenated at 50 psi until hydrogen uptake ceased (ca. 2 hours). The mixture was filtered through a glass microfibre filter paper (Whatman GF/A) and evaporated to dryness to give 3-(morpholin-4-ylmethyl)phenylamine as a colourless oil (2.6 g, 100%) which was used without purification. m/z (ES+) 193 (M++H).

reactant | 4-(3-nitrobenzyl)morpholine | 14 mmol, 3.0 g | [N+](=O)([O-])C=1C=C(CN2CCOCC2)C=CC1 | C11H14N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 150 mg | [Pd] | Pd
product | 3-(morpholin-4-ylmethyl)phenylamine | 2.6 g, 100% | N1(CCOCC1)CC=1C=C(C=CC1)N | C11H16N2O
